Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___
 
Chief Complaint:
Encounter for chemotherapy desensitization
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with PMH of anxiety, rosacea, and pancreaticobiliary cancer
who presents today for chemotherapy desensitization.

Patient was first diagnosed with pancreaticobiliary cancer in
___, started on FOLFIRINOX in ___. Given suspected
chemo toxicity, she was switched to FOLFOX which was started in
___. On C___, she developed itching of b/l hands after
infusion. She had a subsequent reaction on ___ which
resolved with benadryl. She saw allergy on ___ and was
felt to have IGE mediated reaction to oxaliplatin. Skin testing
was positive to oxaliplatin and she was recommended for
desensitization using a 12-step/3 bag desensitization protocol
for all future oxaliplatin infusions. 

Otherwise, patient has had persistent abdominal ascites since 
her
diagnosis and recently underwent an abdominal pleurx drain
placement on ___. Since then, she has had ___ who has 
been
draining 1L on MWF. She has noted leakage around the catheter
site which was attributed to a larger skin incision than her
plerux catheter. Otherwise, denies any F/C, CP/SOB, N/V/D/C, abd
pain. She was last seen in ___ clinic on ___ and had
labs drawn ___ in preparation for her admission for
chemotherapy desensitization. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- ___: Presented to ED with 6 months of worsening LLQ
abdominal pain, weight loss (~25lbs), early satiety, abdominal
distension, nausea, and constipation. Found to have large volume
ascites, peritoneal carcinomatosis, and R ovarian lesion.  
- ___: Omental biopsy and therapeutic paracentesis. Biopsy
returns suggestive of pancreaticobiliary/upper GI primary. 
- ___: MRCP with extensive omental and peritoneal disease
with associated pancreatic tail mass, porta hepatis soft tissue
mass with biliary obstruction and left portal vein partial
thrombosis
- ___: EGD/ERCP, pancreatic mass Bx c/w pancreatic
adenocarcinoma. Straight uncovered metal stent placed into the
right intrahepatic system
- ___: C1D1 FOLFIRINOX
- ___: Admission due to dehydration, diarrhea, fatigue,
and overall significant toxicity from FOLFIRINOX
- ___: C1D1 FOLFOX
- ___: C2D1 FOLFOX
- ___: admitted with febrile neutropenia (scheduled
Neulasta given on day of admission), altered mental status, 
found
to have cholangitis and enterococcal and citrobacter bacteremia.
ERCP ___ showed sludge but no pus, LFTs normalized after removal
of sludge. D/c on 14 days daptomycin IV and cipro PO. CT showed
subsegemental PE and left subclavian DVT (was on Xarelto for 
PVT;
however, it was held for ___ days every week for paracentesis);
continued on Xarelto with the plan to minimize interruptions of
anticoagulation
- ___:  C2D15 FOLFOX
- ___:  admitted for abdominal distention, SOB, fatigue. 
Received paracentesis with improvement in symptoms.  
- ___:  C3D1 FOLFOX
- ___:  D15 held for worsening LFTs, admitted for early
cholangitis
- ___:  ___ FOLFOX
- ___:  admission for biliary obstruction, s/p ERCP ___
with stent changeout.  CT ___ showed decrease in pancreatic 
tail
mass and ovarian disease
- ___:  C4D1 FOLFOX held given admission
- ___:  C4D1 FOLFOX ; D15 attempted to add 25% irinotecan
- ___:  C5D1 FOLFOX (dropped iri due to diarrhea)
- ___:  Dermatology visit for new skin lesion (Bx showed
sebaceous adenoma)
- ___:  C6D1 FOLFOX
- ___:  admission for cholangitis leading to GNR bacteremia,
septic shock.  ERCP ___, para ___.  Plan to d/c on Cipro -->
Bactrim.  Noted to have missed MI/new HFrEF
- ___:  C6D15 FOLFOX, ___ ___ 20% for neuropathy
- ___:  C7D1 ___, ___ ___ 20% for neuropathy.  Infusion
reaction due to oxaliplatin allergy.
- ___:  plan C7D15 FOLFOX with desensitization

PAST MEDICAL HISTORY: 
HTN
rosacea
anxiety
HLD
s/p wrist surgery
s/p C section
s/p Endovenous ablation of the Right Greater saphenous vein with
the Venaseal closure system

 
Social History:
___
Family History:
As per admitting MD
- Father with colon cancer in his ___
- Sister with breast cancer in her ___
 
Physical Exam:
PHYSICAL EXAM:  
Vitals:  24 HR Data (last updated ___ @ 1522)
    Temp: 98.5 (Tm 98.7), BP: 115/65 (105-131/56-67), HR: 91
(79-91), RR: 20 (___), O2 sat: 97% (95-99), O2 delivery: RA,
Wt: 134.7 lb/61.1 kg
GENERAL: Lying comfortably in bed, NAD
HEENT: Clear OP without lesions or thrush
EYES: PERRL, anicteric
NECK: supple, no JVD
RESP: No increased WOB, no wheezing, rhonchi or crackles
___: RRR, no murmurs
GI: soft, +distended, R sided abd pleurx drain draining cloudly
yellow fluid, no surrounding erythema noted, non-tender, no
rebound or guarding
EXT: trace b/l edema, warm
SKIN:  dry, no obvious rashes
NEURO:  alert, fluent speech. PERRL, EOMI. 
ACCESS:  POC, dressing C/D/I
 
Pertinent Results:
ADMISSION LABS:  
___ 03:45PM BLOOD WBC: 7.2 RBC: 2.64* Hgb: 8.5* Hct: 27.1*
MCV: 103* MCH: 32.2* MCHC: 31.4* RDW: 14.9 RDWSD: 55.8* Plt Ct:
276 
___ 03:45PM BLOOD Neuts: 82.5* Lymphs: 6.7* Monos: 8.8 Eos:
0.8* Baso: 0.6 Im ___: 0.6 AbsNeut: 5.90 AbsLymp: 0.48* 
AbsMono:
0.63 AbsEos: 0.06 AbsBaso: 0.04 
___ 03:45PM BLOOD ___: 17.5* PTT: 39.7* ___: 1.6* 
___ 03:45PM BLOOD UreaN: 21* Creat: 1.0 Na: 136 K: 4.1 Cl:
100 HCO3: 23 AnGap: 13 
___ 03:45PM BLOOD ALT: 36 AST: 53* AlkPhos: 531* TotBili:
0.7 
___ 03:45PM BLOOD Albumin: 2.9* Calcium: 8.8 Phos: 4.1 Mg:
1.___ with PMH of anxiety, rosacea, and pancreaticobiliary cancer 
who presents today for chemotherapy desensitization.

# Metastatic adenocarcinoma, likely pancreatic in origin
# Malignant Ascites
# Allergy to chemotherapy/oxaliplatin
Patient presented today for initial oxaliplatin desensitization 
given +skin testing and suspected IgE mediated reaction to 
oxaliplatin. She received her infusion under close monitoring 
and tolerated it well. She will return tomorrow for remainder of 
chemotherapy. She had her abdominal pleurx catheter drained 
while in the hospital with removal of ~1L cloudy ascitic fluid. 
She will continue her home drainage as previously scheduled with 
___ on discharge.

# Recurrent cholangitis
On suppressive bactrim as outpatient
- c/w bactrim qday

# subsegmental PE and subclavian DVT, PVT
On rivaroxaban as outpatient
- c/w rivaroxaban qday

# b/l ___ edema
- c/w lasix 20mg qday PRN

# Protein/calorie malnutrition
- follows with nutrition as outpatient, CTM weight
- c/w ensure supplements

=====================
TRANSITIONAL ISSUES:
=====================
[] will return for remainder of chemotherapy tomorrow; port to 
remain accessed at time of discharge
[] will resume ___ services for ___ drainage of abdominal pleurx 
on discharge
[] reported to have leakage around abd pleurx site; will need to 
be monitored as outpatient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pancrelipase 5000 1 CAP PO TID W/MEALS 
2. Pantoprazole 40 mg PO Q12H 
3. Rivaroxaban 20 mg PO DAILY 
4. Senna 17.2 mg PO BID:PRN Constipation - First Line 
5. Nystatin Oral Suspension 5 mL PO QID:PRN thrush 
6. Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
7. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line 
8. Sulfameth/Trimethoprim DS 1 TAB PO/NG DAILY 
9. Furosemide 20 mg PO DAILY 

 
Discharge Medications:
1.  Furosemide 20 mg PO DAILY  
2.  Nystatin Oral Suspension 5 mL PO QID:PRN thrush  
3.  Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
 
4.  Pancrelipase 5000 1 CAP PO TID W/MEALS  
5.  Pantoprazole 40 mg PO Q12H  
6.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line  
7.  Rivaroxaban 20 mg PO DAILY  
8.  Senna 17.2 mg PO BID:PRN Constipation - First Line  
9.  Sulfameth/Trimethoprim DS 1 TAB PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___.
 
Discharge Diagnosis:
# Metastatic adenocarcinoma, likely pancreatic in origin
# Malignant Ascites
# Allergy to chemotherapy/oxaliplatin
# Recurrent cholangitis
# Hx of PE
# ___ Edema
# Protein/calorie malnutrition
 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was our pleasure to care for you at ___.

You came to the hospital for chemotherapy and tolerated it well. 
Please follow up with your oncologist as previously scheduled 
for the remainder of your treatment.

We wish you all the best!

Sincerely,
Your care team at ___
 
Followup Instructions:
___